US06890947B2
(R)-2-Ethoxy-3-{1-[2-(4-ethyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic Acid
Starting from (R)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester and 4-chloromethyl-2-(4-ethyl-phenyl)-5-methyl-oxazole, the title compound was obtained in 60% yield as a pale yellow solid. AS: (M−H)− 431.2.

reactant | (R)-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC([C@@H](CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-2-(4-ethyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)CC | C13H14ClNO
product | (R)-2-Ethoxy-3-{1-[2-(4-ethyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic Acid | 60% yield | C(C)O[C@@H](C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)CC | C26H28N2O4
